US06180622B2
Potassium t-butoxide (1.06 g) is added to a solution of 2.24 g of (imidazo[5,1-b]thiazol-2-yl)methyltriphenylphosphonium chloride hydrochloride in a mixture of 5 ml of THF and 5 ml of dimethylsulfoxide under ice cooling. The mixture is stirred under ice cooling for 2 hr, a solution of 1.32 g of (3R,5S)-1-allyloxycarbonyl-3-methanesulfonyloxy-5-formylpyrrolidine in 5 ml of THF, and the mixture is stirred under ice cooling for 2 hr. Ethyl acetate is added to the reaction mixture, and the mixture is successively washed with dilute hydrochloric acid and saturated saline and dried over magnesium sulfate. The solvent is removed by evaporation. The residue is purified by column chromatography on silica gel to give 1.07 g of (3R,5S)-1-allyloxycarbonyl-3-methanesulfonyloxy-5-[2-(imidazo[5,1-b]thiazol-2-yl)vinyl]pyrrolidine (a mixture of geometrical isomers).

reactant | Potassium t-butoxide | 1.06 g | CC(C)([O-])C.[K+]
reactant | (imidazo[5,1-b]thiazol-2-yl)methyltriphenylphosphonium chloride hydrochloride | 2.24 g | Cl.[Cl-].S1C=2N(C=C1C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=NC2
reactant | (3R,5S)-1-allyloxycarbonyl-3-methanesulfonyloxy-5-formylpyrrolidine | 1.32 g | C(C=C)OC(=O)N1C[C@@H](C[C@H]1C=O)OS(=O)(=O)C | C10H15NO6S
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | dimethylsulfoxide | 5 ml | CS(=O)C | C2H6OS
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (3R,5S)-1-allyloxycarbonyl-3-methanesulfonyloxy-5-[2-(imidazo[5,1-b]thiazol-2-yl)vinyl]pyrrolidine | 1.07 g | C(C=C)OC(=O)N1C[C@@H](C[C@H]1C=CC1=CN2C(S1)=CN=C2)OS(=O)(=O)C | C16H19N3O5S2
